* Z:\celera\projects\Simplis\playjoseph\NESTO\301a\verification\sim_TIMINGSKEWrising.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map D_1n_1 79
.node_map D_1n_2 60
.node_map D_1n_3 58
.node_map D_1n_4 62
.node_map D_1n_5 57
.node_map D_4n_1 76
.node_map D_4n_2 78
.node_map D_4n_3 75
.node_map D_4n_4 69
.node_map D_4n_5 61
.node_map D_2n_1 80
.node_map D_2n_2 77
.node_map D_2n_3 74
.node_map D_2n_4 67
.node_map D_2n_5 59
.node_map D_8n_1 70
.node_map D_8n_2 73
.node_map D_8n_3 72
.node_map D_8n_4 71
.node_map D_8n_5 63
.node_map GND 81
.node_map IN 55
.node_map D_0p5n_1 65
.node_map D_0p5n_2 66
.node_map D_0p5n_3 68
.node_map D_0p5n_4 64
.node_map D_0p5n_5 56
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000


X$TIMINGSKEWrising 56 57 59 61 63 55 64 62 67 69 71 68 58 74 75 72 66 60 77 78 73 65 79 80 76 70 TIMINGSKEWrising
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playjoseph\NESTO\301a\verification\FORCE_TIMINGSKEWrising.sxcmp


** From Z:\celera\projects\Simplis\playbrian\nesto\301a\design\TIMINGSKEWrising.sxcmp
.subckt TIMINGSKEWrising 238 239 240 241 242 243 244 245 246 247 248 249 250 251 252 253 254 255 256 257 258 259 260 261 262 263
*#hierarchy
.node_map BUS15$4 162
.node_map BUS24$0 203
.node_map BUS24$1 204
.node_map BUS24$2 205
.node_map BUS24$3 206
.node_map BUS16$0 163
.node_map BUS24$4 207
.node_map BUS16$1 164
.node_map BUS16$2 165
.node_map BUS16$3 166
.node_map BUS16$4 167
.node_map BUS25$0 208
.node_map BUS25$1 209
.node_map BUS25$2 210
.node_map BUS25$3 211
.node_map BUS17$0 168
.node_map BUS25$4 212
.node_map BUS17$1 169
.node_map BUS17$2 170
.node_map BUS17$3 171
.node_map BUS1$0 88
.node_map BUS17$4 172
.node_map BUS1$1 89
.node_map BUS26$0 213
.node_map BUS1$2 90
.node_map BUS26$1 214
.node_map BUS1$3 91
.node_map BUS26$2 215
.node_map BUS1$4 92
.node_map BUS26$3 216
.node_map BUS18$0 173
.node_map BUS26$4 217
.node_map BUS18$1 174
.node_map BUS18$2 175
.node_map BUS18$3 176
.node_map BUS2$0 93
.node_map BUS18$4 177
.node_map BUS2$1 94
.node_map BUS27$0 218
.node_map BUS2$2 95
.node_map BUS27$1 219
.node_map BUS2$3 96
.node_map BUS27$2 220
.node_map BUS2$4 97
.node_map BUS27$3 221
.node_map BUS19$0 178
.node_map BUS27$4 222
.node_map BUS19$1 179
.node_map BUS19$2 180
.node_map BUS19$3 181
.node_map BUS3$0 98
.node_map BUS19$4 182
.node_map BUS3$1 99
.node_map BUS28$0 223
.node_map BUS3$2 100
.node_map BUS28$1 224
.node_map BUS3$3 101
.node_map BUS28$2 225
.node_map BUS3$4 102
.node_map BUS28$3 226
.node_map BUS28$4 227
.node_map BUS4$0 103
.node_map BUS4$1 104
.node_map BUS29$0 228
.node_map BUS4$2 105
.node_map BUS29$1 229
.node_map BUS4$3 106
.node_map BUS29$2 230
.node_map BUS4$4 107
.node_map BUS29$3 231
.node_map BUS29$4 232
.node_map BUS5$0 108
.node_map BUS5$1 109
.node_map BUS5$2 110
.node_map BUS5$3 111
.node_map BUS5$4 112
.node_map BUS6$0 113
.node_map D_1n_1 260
.node_map BUS6$1 114
.node_map D_1n_2 255
.node_map BUS10$0 133
.node_map BUS6$2 115
.node_map D_1n_3 250
.node_map BUS10$1 134
.node_map BUS6$3 116
.node_map D_1n_4 245
.node_map BUS10$2 135
.node_map BUS6$4 117
.node_map D_1n_5 239
.node_map BUS10$3 136
.node_map D_4n_1 262
.node_map BUS10$4 137
.node_map D_4n_2 257
.node_map D_4n_3 252
.node_map BUS7$0 118
.node_map D_4n_4 247
.node_map BUS7$1 119
.node_map D_4n_5 241
.node_map BUS11$0 138
.node_map BUS7$2 120
.node_map BUS11$1 139
.node_map BUS7$3 121
.node_map BUS11$2 140
.node_map BUS7$4 122
.node_map BUS11$3 141
.node_map D_2n_1 261
.node_map BUS11$4 142
.node_map D_2n_2 256
.node_map BUS20$0 183
.node_map D_2n_3 251
.node_map BUS20$1 184
.node_map BUS8$0 123
.node_map D_2n_4 246
.node_map BUS20$2 185
.node_map BUS8$1 124
.node_map D_2n_5 240
.node_map BUS20$3 186
.node_map BUS12$0 143
.node_map BUS8$2 125
.node_map BUS20$4 187
.node_map BUS12$1 144
.node_map BUS8$3 126
.node_map BUS12$2 145
.node_map BUS8$4 127
.node_map BUS12$3 146
.node_map BUS12$4 147
.node_map BUS21$0 188
.node_map D_8n_1 263
.node_map BUS21$1 189
.node_map BUS9$0 128
.node_map D_8n_2 258
.node_map BUS21$2 190
.node_map BUS9$1 129
.node_map D_8n_3 253
.node_map BUS21$3 191
.node_map BUS13$0 148
.node_map BUS9$2 130
.node_map D_8n_4 248
.node_map BUS21$4 192
.node_map BUS13$1 149
.node_map BUS9$3 131
.node_map D_8n_5 242
.node_map BUS30$0 233
.node_map BUS13$2 150
.node_map BUS9$4 132
.node_map BUS30$1 234
.node_map BUS13$3 151
.node_map BUS30$2 235
.node_map BUS13$4 152
.node_map BUS30$3 236
.node_map BUS22$0 193
.node_map BUS30$4 237
.node_map BUS22$1 194
.node_map BUS22$2 195
.node_map BUS22$3 196
.node_map BUS14$0 153
.node_map BUS22$4 197
.node_map BUS14$1 154
.node_map BUS14$2 155
.node_map IN 243
.node_map BUS14$3 156
.node_map BUS14$4 157
.node_map D_0p5n_1 259
.node_map BUS23$0 198
.node_map D_0p5n_2 254
.node_map BUS23$1 199
.node_map D_0p5n_3 249
.node_map BUS23$2 200
.node_map D_0p5n_4 244
.node_map BUS23$3 201
.node_map BUS15$0 158
.node_map D_0p5n_5 238
.node_map BUS23$4 202
.node_map BUS15$1 159
.node_map BUS15$2 160
.node_map BUS15$3 161
X$pinprobe1 238 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe10 260 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe11 261 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe12 251 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe13 256 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe14 240 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe15 246 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe16 241 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe17 257 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe18 252 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe19 262 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe2 244 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe20 247 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe21 242 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe22 258 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe23 248 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe24 253 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe25 263 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe26 243 pinprobe vars: pinprobe_description='IN' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 249 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe4 254 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe5 259 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe6 239 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe7 245 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe8 255 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe9 250 pinprobe vars: pinprobe_description='Out' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$U1 259 93 94 95 96 97 254 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_0p5_1' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=0 timingskew_lsb=0.5 timingskew_vmax=6
X$U10 255 128 129 130 131 132 250 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_1_2' timingskew_datasheet_description='text' timingskew_bits=3 timingskew_por=1 timingskew_lsb=1 timingskew_vmax=6
X$U11 239 143 144 145 146 147 84 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_1_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=1 timingskew_lsb=1 timingskew_vmax=6
X$U12 238 113 114 115 116 117 83 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_0p5_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=0 timingskew_lsb=0.5 timingskew_vmax=6
X$U13 83 celeranoconn vars: ='%'
X$U14 84 celeranoconn vars: ='%'
X$U15 240 173 174 175 176 177 85 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_2_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=1 timingskew_lsb=2 timingskew_vmax=6
X$U16 246 168 169 170 171 172 240 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_2_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=1 timingskew_lsb=2 timingskew_vmax=6
X$U17 251 163 164 165 166 167 246 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_2_3' timingskew_datasheet_description='text' timingskew_bits=4 timingskew_por=1 timingskew_lsb=2 timingskew_vmax=6
X$U18 261 153 154 155 156 157 256 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_2_1' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=1 timingskew_lsb=2 timingskew_vmax=6
X$U19 85 celeranoconn vars: ='%'
X$U2 254 98 99 100 101 102 249 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_0p5_2' timingskew_datasheet_description='text' timingskew_bits=3 timingskew_por=0 timingskew_lsb=0.5 timingskew_vmax=6
X$U20 256 158 159 160 161 162 251 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_2_2' timingskew_datasheet_description='text' timingskew_bits=3 timingskew_por=1 timingskew_lsb=2 timingskew_vmax=6
X$U21 243 148 149 150 151 152 261 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_2_0' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=1 timingskew_lsb=2 timingskew_vmax=6
X$U22 243 178 179 180 181 182 262 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_4_0' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=1 timingskew_lsb=4 timingskew_vmax=6
X$U23 241 203 204 205 206 207 86 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_4_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=1 timingskew_lsb=4 timingskew_vmax=6
X$U24 252 193 194 195 196 197 247 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_4_3' timingskew_datasheet_description='text' timingskew_bits=4 timingskew_por=1 timingskew_lsb=4 timingskew_vmax=6
X$U25 247 198 199 200 201 202 241 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_4_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=1 timingskew_lsb=4 timingskew_vmax=6
X$U26 257 188 189 190 191 192 252 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_4_2' timingskew_datasheet_description='text' timingskew_bits=3 timingskew_por=1 timingskew_lsb=4 timingskew_vmax=6
X$U27 262 183 184 185 186 187 257 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_4_1' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=1 timingskew_lsb=4 timingskew_vmax=6
X$U28 86 celeranoconn vars: ='%'
X$U29 263 213 214 215 216 217 258 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_8_1' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=1 timingskew_lsb=8 timingskew_vmax=6
X$U3 249 103 104 105 106 107 244 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_0p5_3' timingskew_datasheet_description='text' timingskew_bits=4 timingskew_por=0 timingskew_lsb=0.5 timingskew_vmax=6
X$U30 253 223 224 225 226 227 248 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_8_3' timingskew_datasheet_description='text' timingskew_bits=4 timingskew_por=1 timingskew_lsb=8 timingskew_vmax=6
X$U31 242 233 234 235 236 237 87 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_8_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=1 timingskew_lsb=8 timingskew_vmax=6
X$U32 248 228 229 230 231 232 242 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_8_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=1 timingskew_lsb=8 timingskew_vmax=6
X$U33 258 218 219 220 221 222 253 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_8_2' timingskew_datasheet_description='text' timingskew_bits=3 timingskew_por=1 timingskew_lsb=8 timingskew_vmax=6
X$U34 87 celeranoconn vars: ='%'
X$U35 243 208 209 210 211 212 263 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_8_0' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=1 timingskew_lsb=8 timingskew_vmax=6
X$U4 243 88 89 90 91 92 259 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_0p5_0' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=0 timingskew_lsb=0.5 timingskew_vmax=6
X$U5 244 108 109 110 111 112 238 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_0p5_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=0 timingskew_lsb=0.5 timingskew_vmax=6
X$U6 250 133 134 135 136 137 245 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_1_3' timingskew_datasheet_description='text' timingskew_bits=4 timingskew_por=1 timingskew_lsb=1 timingskew_vmax=6
X$U7 245 138 139 140 141 142 239 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_1_4' timingskew_datasheet_description='text' timingskew_bits=5 timingskew_por=1 timingskew_lsb=1 timingskew_vmax=6
X$U8 243 118 119 120 121 122 260 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_1_0' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=1 timingskew_lsb=1 timingskew_vmax=6
X$U9 260 123 124 125 126 127 255 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='Delay_1_1' timingskew_datasheet_description='text' timingskew_bits=2 timingskew_por=1 timingskew_lsb=1 timingskew_vmax=6
.ends TIMINGSKEWrising

.end
