* Z:\celera\projects\Simplis\playcalum\Scratch\sim_TIMINGSKEW.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 25u 0

.globalvar VIN = 5.0
.globalvar REF = 1.0

.PRINT V(4)
.GRAPH :4 curveLabel= U2-OUT nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(3)
.GRAPH :3 curveLabel= V1-pos nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
X$U2 4 3 TSKEW
V1 3 0 PWL NSEG=2 X0=0 Y0=0 X1=20u Y1=0 X2=20.001u Y2={VIN} 
** From Z:\celera\projects\Simplis\playcalum\Scratch\TSKEW.sxcmp
.subckt TSKEW 40 41
*#hierarchy
.node_map BUS1$0 15
.node_map BUS1$1 16
.node_map OUT 40
.node_map BUS1$2 17
.node_map BUS1$3 18
.node_map BUS1$4 19
.node_map BUS2$0 20
.node_map BUS2$1 21
.node_map BUS2$2 22
.node_map BUS2$3 23
.node_map BUS2$4 24
.node_map BUS3$0 25
.node_map BUS3$1 26
.node_map BUS3$2 27
.node_map BUS3$3 28
.node_map BUS3$4 29
.node_map BUS4$0 30
.node_map BUS4$1 31
.node_map BUS4$2 32
.node_map BUS4$3 33
.node_map BUS4$4 34
.node_map BUS5$0 35
.node_map BUS5$1 36
.node_map BUS5$2 37
.node_map BUS5$3 38
.node_map BUS5$4 39
.node_map O1 42
.node_map O2 43
.node_map O3 44
.node_map O4 45
.node_map enable 41
X$pinprobe1 40 pinprobe vars: pinprobe_description='GMV_regulation_reference' pinprobe_mode='output' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$U1 42 20 21 22 23 24 43 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='TIME1' timingskew_datasheet_description='time_1ns' timingskew_bits=5 timingskew_por=31 timingskew_lsb=1 timingskew_vmax=6
X$U2 41 15 16 17 18 19 42 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='TIME0p5' timingskew_datasheet_description='time_0p5ns' timingskew_bits=5 timingskew_por=31 timingskew_lsb=0.5 timingskew_vmax=6
X$U3 43 25 26 27 28 29 44 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='TIME2' timingskew_datasheet_description='time_2ns' timingskew_bits=5 timingskew_por=31 timingskew_lsb=2 timingskew_vmax=6
X$U4 44 30 31 32 33 34 45 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='TIME4' timingskew_datasheet_description='time_4ns' timingskew_bits=5 timingskew_por=31 timingskew_lsb=4 timingskew_vmax=6
X$U5 45 35 36 37 38 39 40 timingskew vars: timingskew_type='rise' timingskew_control='register' timingskew_dft='no' timingskew_datasheet_name='TIME8' timingskew_datasheet_description='time_8ns' timingskew_bits=5 timingskew_por=31 timingskew_lsb=8 timingskew_vmax=6
X$U8 41 pinprobe vars: pinprobe_description='Referecne_input_1.2V' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
.ends TSKEW

.end
